US08791161B2
N-{2-[(2-aminoethyl)thio]-5-chlorophenyl}-4-chloro-3-(trifluoromethyl)benzenesulfonamide
Following General Procedure G, the title compound was prepared from N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis[4-chloro-3-(trifluoromethyl)benzenesulfonamide] Intermediate 5 and 2-bromo-ethylamine hydrobromide.

reactant | N,N′-[dithiobis(5-chloro-2,1-phenylene)]bis[4-chloro-3-(trifluoromethyl)benzenesulfonamide] | ClC=1C=CC(=C(C1)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)SSC1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C26H14Cl4F6N2O4S4
reactant | 2-bromo-ethylamine hydrobromide | Br.BrCCN
product | N-{2-[(2-aminoethyl)thio]-5-chlorophenyl}-4-chloro-3-(trifluoromethyl)benzenesulfonamide | NCCSC1=C(C=C(C=C1)Cl)NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F | C15H13Cl2F3N2O2S2
